US07405305B2
Add 2-bromo-1,1-diethoxyethane (3.64 g, 18.48 mmol) to a solution of 6-bromopyridin-2-ylamine (1.0 g, 5.77 mmol) in n-butanol (40 ml). Reflux overnight and cool. Filtration of the reaction mixture gives 1.3 g (81%) of 5-bromoimidazo[1,2-a]pyridine hydrobromide as a white solid. ESMS (M++1): 198.9 m/z.

reactant | 2-bromo-1,1-diethoxyethane | 18.48 mmol, 3.64 g | BrCC(OCC)OCC | C6H13BrO2
reactant | 6-bromopyridin-2-ylamine | 5.77 mmol, 1.0 g | BrC1=CC=CC(=N1)N | C5H5BrN2
solvent | n-butanol | 40 ml | C(CCC)O | C4H10O
product | 5-bromoimidazo[1,2-a]pyridine hydrobromide | 1.3 g, 81% | Br.BrC1=CC=CC=2N1C=CN2 | InChI=1S/C7H5BrN2.BrH/c8-6-2-1-3-7-9-4-5-10(6)7;/h1-5H;1H
